US07495018B2
1-(3-methylphenyl)-2-(2-methyl-4-pyridyl)ethanone
A solution of diisopropylamine (112 mL) in anhydrous tetrahydrofuran (760 mL) was cooled to −50° C., and to this was added dropwise a 1.6 M n-butyllithium hexane solution (500 mL) with stirring. After completion of the addition, the solution was stirred for 10 minutes, subsequently, a solution of 2,4-lutidine (87.9 mL) in anhydrous tetrahydrofuran (76 mL) was added dropwise at −30° C. The reaction mixture was stirred for 1 hour, then, a solution of N-(3-methylbenzoyl)propyleneimine (134 g) in anhydrous tetrahydrofuran (76 mL) was added dropwise at −78° C. After completion of the addition, the mixture was stirred for 2 hours at −78° C. The reaction mixture was allowed to warm to room temperature, to this was added water (800 mL), and extracted with ethyl acetate. The extracts were washed with water, dried, then, the solvent was distilled off. The resulted residue was crystallized from isopropyl ether-hexane to obtain a title compound (156 g, yield 91%).

reactant | diisopropylamine | 112 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium hexane | 1.6 M, 500 mL | CCCCCC.C(CCC)[Li]
reactant | 2,4-lutidine | 87.9 mL | N1=C(C=C(C=C1)C)C | C7H9N
reactant | water | 800 mL | O | H2O
solvent | tetrahydrofuran | 760 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 76 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 76 mL | O1CCCC1 | C4H8O
product | 1-(3-methylphenyl)-2-(2-methyl-4-pyridyl)ethanone | 156 g, yield 91% | CC=1C=C(C=CC1)C(CC1=CC(=NC=C1)C)=O | C15H15NO
